US07598391B2
{2-[3-Cyclobutyl-3-(trans-4-methyl-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid
{2-[3-Cyclobutyl-3-(trans-4-methyl-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid ethyl ester prepared as described in general procedures (A) and (B) using cyclobutyl-(trans-4-methyl-cyclohexyl)-amine and 5-aminothiazole-2-mercaptoacetic acid ethyl ester. Hydrolysis using general procedure (F) gave the title compound.

reactant | {2-[3-Cyclobutyl-3-(trans-4-methyl-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid ethyl ester | C(C)OC(CSC1=CN=C(S1)NC(=O)N([C@@H]1CC[C@H](CC1)C)C1CCC1)=O | C19H29N3O3S2
reactant | cyclobutyl-(trans-4-methyl-cyclohexyl)-amine | C1(CCC1)N[C@@H]1CC[C@H](CC1)C | C11H21N
reactant | 5-aminothiazole 2-mercaptoacetic acid ethyl ester | NC1=CN=CS1.C(C)OC(CS)=O
product | {2-[3-Cyclobutyl-3-(trans-4-methyl-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid | C1(CCC1)N(C(NC=1SC(=CN1)SCC(=O)O)=O)[C@@H]1CC[C@H](CC1)C | C17H25N3O3S2
